US09422271B2
A 100 mL round bottomed flask was charged with 5-(5-bromo-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)thiophene-2-carboxylic acid (332.5 mg, 0.82 mmol, 1 eq), N-(2-aminoethyl)acetamide (125.3 mg, 1.23 mol, 1.5 eq), EDCI (313.0 mg, 1.6 mmol, 2 eq), HOBt (221.1 mg, 1.6 mmol, 2 eq) and DIPEA (635.4 mg, 4.9 mmol, 6 equiv) in DMF (5 mL). The mixture was stirred for 12 h at 23° C. and extracted with THF (3×70 mL). The organic layers were dried (Na2SO4), filtered and concentrated. The residue was purified by silica gel column chromatography (PE/EA/MeOH=1:1:0.05 as eluant) to give pale-yellow solid N-(2-acetamidoethyl)-5-(5-bromo-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)thiophene-2-carboxamide (273.8 mg, 68.3%). LC-MS (m/z)=491.1 [M+H]+.

reactant | 5-(5-bromo-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)thiophene-2-carboxylic acid | 0.82 mmol, 332.5 mg, 1 eq | BrC=1C(=NC(=NC1)C1=CC=C(S1)C(=O)O)NC1=NNC(=C1)C1CC1 | C15H12BrN5O2S
reactant | N-(2-aminoethyl)acetamide | 1.23 mol, 125.3 mg, 1.5 eq | NCCNC(C)=O | C4H10N2O
reactant | EDCI | 1.6 mmol, 313.0 mg, 2 eq | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 1.6 mmol, 221.1 mg, 2 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 4.9 mmol, 635.4 mg, 6 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(2-acetamidoethyl)-5-(5-bromo-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)thiophene-2-carboxamide | 273.8 mg, 68.3% | C(C)(=O)NCCNC(=O)C=1SC(=CC1)C1=NC=C(C(=N1)NC1=NNC(=C1)C1CC1)Br | C19H20BrN7O2S
